US07691882B2
3-(3-(6-(Pyridin-3-yloxy)-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a mixture of 5-(2-nitro-ethyl)-2-(pyridin-3-yloxy)pyridine (157.0 mg, 0.64 mmol) described in Manufacturing Example 100-1-2 and methanol (6 mL) was added lithium methoxide (48.7 mg, 1.28 mmol) at room temperature, which was stirred for 1 hour. The reaction mixture was then concentrated under a reduced pressure, which gave a white solid. To a mixture of this solid in dichloromethane (4 mL) and tetrahydrofuran (2 mL) was added titanium tetrachloride (155.0 μL, 1.41 mmol) under nitrogen atmosphere at −78° C., which was stirred for 3 hours at 0° C. Water was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and then filtered. The filtrate was concentrated under a reduced pressure. To a mixture of the resulting residue (30.7 mg), 3-ethynyl-pyridin-2,6-diamine (15.4 mg, 0.12 mmol) described in Manufacturing Example 13-1-3, tetrahydrofuran (1 mL), and dimethyl sulfoxide (1 mL) was added triethylamine (32.4 μL, 0.23 mmol) at room temperature, which was stirred for 1 hour at 55° C. The reaction mixture was cooled to room temperature, water was added, and the mixture was extracted with ethyl acetate. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure. The residue thus obtained was purified by reverse-phase high performance liquid chromatography (using an acetonitrile-water mobile phase containing 0.1% trifluoroacetic acid), and then further purified by preparative thin-layer chromatography (NH silica gel, ethyl acetate) to obtain the title compound (3.6 mg, 9%).

reactant | 5-(2-nitro-ethyl)-2-(pyridin-3-yloxy)pyridine | 0.64 mmol, 157.0 mg | [N+](=O)([O-])CCC=1C=CC(=NC1)OC=1C=NC=CC1 | C12H11N3O3
reactant | lithium methoxide | 1.28 mmol, 48.7 mg | C[O-].[Li+]
reactant | 3-ethynyl-pyridin-2,6-diamine | 0.12 mmol, 15.4 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | triethylamine | 0.23 mmol, 32.4 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 1.41 mmol, 155.0 μL | [Ti](Cl)(Cl)(Cl)Cl
solvent | water | O | H2O
solvent | dimethyl sulfoxide | 1 mL | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | methanol | 6 mL | CO | CH4O
product | 3-(3-(6-(Pyridin-3-yloxy)-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 3.6 mg, 9% | N1=CC(=CC=C1)OC1=CC=C(C=N1)CC1=NOC(=C1)C=1C(=NC(=CC1)N)N | C19H16N6O2
